US08138187B2
A 1 M solution of BBr3 in methylene chloride (1.03 ml, 1.03 mmol) was added to a solution of 1-benzyl-4-(5-methoxy-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine (more polar diastereoisomer, 130 mg, 0.345 mmol) in dry methylene chloride (20 ml) at RT, while stirring and with exclusion of moisture. After 10 min a precipitate precipitated out. The mixture was stirred at RT for 24 h.—For working up, sat. NaHCO3 solution (15 ml) was added to the mixture and the mixture was stirred for 48 h. The organic phase was separated off and the aqueous phase was extracted with methylene chloride (3×10 ml). The combined organic phases were dried over Na2SO4 and then concentrated. 2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-3-methyl-1H-indol-5-ol (polar diastereomer) was obtained in this way in a yield of 63 mg (50%).

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 1-benzyl-4-(5-methoxy-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine | C(C1=CC=CC=C1)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)OC)N(C)C | C25H32N2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.03 mmol, 1.03 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-3-methyl-1H-indol-5-ol | C(C1=CC=CC=C1)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)O)N(C)C | C24H30N2O
